US04091105
Step A: Preparation of N-t-butoxycarbonyl-N-methyl hydroxylamine
N-methylhydroxylamine hydrochloride (14.6 g.) in 20 ml. of water was cooled in an ice-bath and treated with 20 g. of t-butyl azidoformate. A solution of 22.4 g. of sodium hydroxide in 80 ml. of water was added dropwise with stirring over 45 minutes while controlling the temperature below 10° C. The mixture was allowed to warm to room temperature with stirring over a 60 minute period after the addition during which time a little more sodium hydroxide solution and N-methyl hydroxylamine were added. The solution was extracted with 2 × 50 ml. of ether, and the extracts were discarded. The aqueous phase, with cooling, was adjusted to pH 3.5 with 6 N hydrochloric acid, and extracted with 5 × 60 ml. of ether. The combined ether extracts were dried over magnesium sulfate and evaporated to 16 g. of oily N-t-butoxycarbonyl-N-methyl hydroxylamine.

reactant | N-methylhydroxylamine hydrochloride | 14.6 g | Cl.CNO
reactant | t-butyl azidoformate | N(=[N+]=[N-])C(=O)OC(C)(C)C | C5H9N3O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N-methyl hydroxylamine | CNO | CH5NO
reactant | water | O | H2O
product | N-t-butoxycarbonyl-N-methyl hydroxylamine | C(C)(C)(C)OC(=O)N(O)C | C6H13NO3
